US04612311
To a suspension of 18.2 g of 3-amino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide in 75 ml dichloromethane is added slowly a solution of 16.1 g mesitylene sulfonylhydroxylamine (MSH) in 90 ml dichloromethane at 0° C. under stirring. Thereafter stirring is continued for one hour at room temperature and the precipitate then sucked off, washed with diethylether and air-dried. Colorless 3,4-diamino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide mesitylene sulfonate, m. pt. 225° C., are obtained. To 10.0 g thereof, suspended in 30 ml pyridine are added under stirring 8.3 g trifluoroacetic acid anhydride. After four hours of boiling the solvent is distilled in a water-jet pump vacuum. The residue is partitioned in dichloromethane/aqueous sodium bicarbonate. The organic layer is concentrated and the residue recrystallized from ethanol. A 3.9 g colorless solid product is obtained, m. pt. 167° C.

reactant | 3-amino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide | 18.2 g | NC=1NS(C2=C(N1)C=CC(=C2)Cl)(C2=CC=CC=C2)=O | C13H12ClN3OS
reactant | mesitylene sulfonylhydroxylamine | 16.1 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 3,4-diamino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide mesitylene sulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)O)C.NC1=NS(C2=C(N1N)C=CC(=C2)Cl)(C2=CC=CC=C2)=O | InChI=1S/C13H13ClN4OS.C9H12O3S/c14-9-6-7-11-12(8-9)20(19,17-13(15)18(11)16)10-4-2-1-3-5-10;1-6-4-7(2)9(8(3)5-6)13(10,11)12/h1-8,20H,16H2,(H2,15,17,19);4-5H,1-3H3,(H,10,11,12)
